### PR TITLE
[Merged by Bors] - chore: Rename `coe_nat`/`coe_int`/`coe_rat` to `natCast`/`intCast`/`ratCast`

### PR DESCRIPTION
**Pull request by YaelDillies**
This is less exhaustive than its sibling #11486 because edge cases are harder to classify. No fundamental difficulty, just me being a bit fast and lazy.

Reduce the diff of #11203

---

- [x] depends on: #11528
- [x] depends on: #11552
- [x] depends on: #11637

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Algebra/Subalgebra/Basic.lean [hunk 1]
```diff
@@ -38,7 +38,9 @@ add_decl_doc Subalgebra.toSubsemiring
 namespace Subalgebra
 
 variable {R' : Type u'} {R : Type u} {A : Type v} {B : Type w} {C : Type w'}
+
 variable [CommSemiring R]
+
```
Comment (eric-wieser) [inline Mathlib/Algebra/Algebra/Subalgebra/Basic.lean:43]: Intentional, or the result of a sloppy merge?

**Comment by fpvandoorn** [comment]
Can we add deprecated aliases for the old names?

**Comment by YaelDillies** [comment]
I estimate that without automation it would take me several hours to write the deprecated aliases 😦

**Review by j-loreaux — APPROVED** [review]
LGTM but I would like one more maintainer to sign off since the poll was close.

File: Mathlib/Data/Polynomial/Basic.lean [hunk 2]
```diff
@@ -1188,7 +1185,6 @@ instance ring : Ring R[X] :=
       toFinsupp_mul toFinsupp_neg toFinsupp_sub (fun _ _ => toFinsupp_smul _ _)
       (fun _ _ => toFinsupp_smul _ _) toFinsupp_pow (fun _ => rfl) fun _ => rfl with
     toSemiring := Polynomial.semiring,
-    toIntCast := Polynomial.intCast
```
Comment (mattrobball) [inline Mathlib/Data/Polynomial/Basic.lean:1191]: Why was this deleted?

File: Mathlib/Order/Filter/FilterProduct.lean [hunk 3]
```diff
@@ -37,27 +37,29 @@ open Ultrafilter
...
-
-instance divisionRing [DivisionRing β] : DivisionRing β* :=
-  { Germ.ring, Germ.divisionSemiring with qsmul := qsmulRec _ }
-
-instance semifield [Semifield β] : Semifield β* :=
-  { Germ.commSemiring, Germ.divisionSemiring with }
-
-instance field [Field β] : Field β* :=
-  { Germ.commRing, Germ.divisionRing with }
+instance instGroupWithZero [GroupWithZero β] : GroupWithZero β* where
```
Comment (mattrobball) [inline Mathlib/Order/Filter/FilterProduct.lean:40]: Some of these are probably in the wrong order but out of scope if reverted.

File: Mathlib/Order/Filter/FilterProduct.lean [hunk 4]
```diff
@@ -86,46 +88,51 @@ instance isTotal [LE β] [IsTotal β (· ≤ ·)] : IsTotal β* (· ≤ ·) :=
...
-
-noncomputable instance linearOrderedRing [LinearOrderedRing β] : LinearOrderedRing β* :=
-  { Germ.strictOrderedRing, Germ.linearOrder with }
-
-noncomputable instance linearOrderedField [LinearOrderedField β] : LinearOrderedField β* :=
-  { Germ.linearOrderedRing, Germ.field with }
-
-noncomputable instance linearOrderedCommRing [LinearOrderedCommRing β] : LinearOrderedCommRing β* :=
-  { Germ.linearOrderedRing, Germ.commMonoid with }
+    LinearOrderedCommGroup β* where
```
Comment (mattrobball) [inline Mathlib/Order/Filter/FilterProduct.lean:96]: Similarly here

File: Mathlib/Order/Filter/Germ.lean [hunk 5]
```diff
@@ -361,26 +361,21 @@ theorem liftRel_const_iff [NeBot l] {r : β → γ → Prop} {x : β} {y : γ} :
...
+instance instInhabited [Inhabited β] : Inhabited (Germ l β) := ⟨↑(default : β)⟩
 
 section Monoid
 
 variable {M : Type*} {G : Type*}
 
-@[to_additive]
-instance mul [Mul M] : Mul (Germ l M) :=
-  ⟨map₂ (· * ·)⟩
+@[to_additive] instance instMul [Mul M] : Mul (Germ l M) := ⟨map₂ (· * ·)⟩
```
Comment (mattrobball) [inline Mathlib/Order/Filter/Germ.lean:370]: Why is `to_additive` on the same line now? I have no idea what the standardization of this is supposed to be.

File: Mathlib/Order/Filter/Germ.lean [hunk 6]
```diff
@@ -837,54 +824,41 @@ theorem const_inf [Inf β] (a b : β) : ↑(a ⊓ b) = (↑a ⊓ ↑b : Germ l 
...
+instance instLattice [Lattice β] : Lattice (Germ l β) where
+  __ := instSemilatticeSup
+  __ := instSemilatticeInf
+
+instance instDistribLattice [DistribLattice β] : DistribLattice (Germ l β) where
+  le_sup_inf f g h := inductionOn₃ f g h fun _f _g _h ↦ eventually_of_forall fun _ ↦ le_sup_inf
 
 @[to_additive]
-instance orderedCommMonoid [OrderedCommMonoid β] : OrderedCommMonoid (Germ l β) :=
-  { Germ.partialOrder, Germ.commMonoid with
```
Comment (mattrobball) [inline Mathlib/Order/Filter/Germ.lean:870]: Are we sure this ordering of sources is not intentional?

File: Mathlib/RingTheory/Subsemiring/Basic.lean [hunk 7]
```diff
@@ -1074,7 +1070,9 @@ end Subsemiring
 namespace RingHom
 
 variable [NonAssocSemiring T] {s : Subsemiring R}
+
```
Comment (mattrobball) [inline Mathlib/RingTheory/Subsemiring/Basic.lean:1073]: I thought we just removed these?

File: Mathlib/Data/Polynomial/Basic.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Data/Polynomial/Basic.lean:1191]: because I had to rename `Polynomial.intCast` to `Polynomial.instIntCast` and there's no need to specify the instance anyway since `Ring` extends `IntCast`

File: Mathlib/RingTheory/Subsemiring/Basic.lean (hunk 7 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/Subsemiring/Basic.lean:1073]: Sorry that's a probably a bad merge on my part

File: Mathlib/Order/Filter/Germ.lean (hunk 5 above)
Comment (YaelDillies) [reply Mathlib/Order/Filter/Germ.lean:370]: If it fits on a line, you can put it on a line. This is how it always was

File: Mathlib/Order/Filter/Germ.lean (hunk 6 above)
Comment (YaelDillies) [reply Mathlib/Order/Filter/Germ.lean:870]: Yes, I rewrote quite a lot of this file before the port. Note that the source do not overlap

File: Mathlib/Data/Polynomial/Basic.lean (hunk 2 above)
Comment (mattrobball) [reply Mathlib/Data/Polynomial/Basic.lean:1191]: Sure but you get a different path to `IntCast` here. Instead of a direct call you now have to go through all of `Function.Injective.ring` to get to it. The synthesized instance doesn't take priority and it looks like this was rewritten to avoid using anything but data from the `Function.Injective.ring` call

File: Mathlib/Order/Filter/FilterProduct.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Order/Filter/FilterProduct.lean:40]: I don't understand what you mean

File: Mathlib/Data/Polynomial/Basic.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/Data/Polynomial/Basic.lean:1191]: I think #11521 will make this moot

File: Mathlib/Algebra/Group/ULift.lean [hunk 8]
```diff
@@ -143,10 +143,10 @@ instance commMonoid [CommMonoid α] : CommMonoid (ULift α) :=
 #align ulift.comm_monoid ULift.commMonoid
 #align ulift.add_comm_monoid ULift.addCommMonoid
 
-instance natCast [NatCast α] : NatCast (ULift α) := ⟨(up ·)⟩
-#align ulift.has_nat_cast ULift.natCast
-instance intCast [IntCast α] : IntCast (ULift α) := ⟨(up ·)⟩
-#align ulift.has_int_cast ULift.intCast
+instance instNatCast [NatCast α] : NatCast (ULift α) := ⟨(up ·)⟩
```
Comment (eric-wieser) [inline Mathlib/Algebra/Group/ULift.lean:146]: @Please mention these renames in the PR description (or revert them)

File: Mathlib/Data/ENNReal/Basic.lean [hunk 9]
```diff
@@ -558,8 +558,8 @@ theorem one_lt_coe_iff : 1 < (↑p : ℝ≥0∞) ↔ 1 < p := coe_lt_coe
 #align ennreal.one_lt_coe_iff ENNReal.one_lt_coe_iff
 
 @[simp, norm_cast]
-theorem coe_nat (n : ℕ) : ((n : ℝ≥0) : ℝ≥0∞) = n := rfl
-#align ennreal.coe_nat ENNReal.coe_nat
+theorem natCast (n : ℕ) : ((n : ℝ≥0) : ℝ≥0∞) = n := rfl
```
Comment (eric-wieser) [inline Mathlib/Data/ENNReal/Basic.lean:561]:
```suggestion
theorem coe_natCast (n : ℕ) : ((n : ℝ≥0) : ℝ≥0∞) = n := rfl
```
or `ofNNReal_natCast`

File: Mathlib/Data/ENNReal/Basic.lean [hunk 10]
```diff
@@ -668,11 +668,11 @@ theorem le_of_forall_pos_le_add (h : ∀ ε : ℝ≥0, 0 < ε → b < ∞ → a
 #align ennreal.le_of_forall_pos_le_add ENNReal.le_of_forall_pos_le_add
 
 theorem coe_nat_lt_coe {n : ℕ} : (n : ℝ≥0∞) < r ↔ ↑n < r :=
```
Comment (eric-wieser) [inline Mathlib/Data/ENNReal/Basic.lean:670]:
```suggestion
theorem natCast_lt_coe {n : ℕ} : (n : ℝ≥0∞) < r ↔ ↑n < r :=
```

File: Mathlib/Data/Int/Cast/Basic.lean [hunk 11]
```diff
@@ -64,7 +64,7 @@ theorem cast_zero : ((0 : ℤ) : R) = 0 :=
 @[simp high, nolint simpNF, norm_cast] -- this lemma competes with `Int.ofNat_eq_cast` to come later
 theorem cast_ofNat (n : ℕ) : ((n : ℤ) : R) = n :=
   AddGroupWithOne.intCast_ofNat _
-#align int.cast_coe_nat Int.cast_ofNatₓ
+#align int.cast_nat_cast Int.cast_ofNatₓ
```
Comment (eric-wieser) [inline Mathlib/Data/Int/Cast/Basic.lean:67]: Why did the lean3 half of the align change?

File: Mathlib/Data/Int/Cast/Lemmas.lean [hunk 12]
```diff
@@ -513,17 +513,16 @@ namespace Pi
 
 variable {π : ι → Type*} [∀ i, IntCast (π i)]
 
-instance intCast : IntCast (∀ i, π i) :=
-  { intCast := fun n _ ↦ n }
+instance instIntCast : IntCast (∀ i, π i) where intCast n _ := n
```
Comment (eric-wieser) [inline Mathlib/Data/Int/Cast/Lemmas.lean:516]: Another instance rename to note

File: Mathlib/Data/Nat/Cast/Basic.lean [hunk 13]
```diff
@@ -311,16 +311,16 @@ variable {π : α → Type*} [∀ a, NatCast (π a)]
...
-instance natCast : NatCast (∀ a, π a) := { natCast := fun n _ ↦ n }
+instance instNatCast : NatCast (∀ a, π a) where natCast n _ := n
 
 theorem nat_apply (n : ℕ) (a : α) : (n : ∀ a, π a) a = n :=
   rfl
 #align pi.nat_apply Pi.nat_apply
 
 @[simp]
-theorem coe_nat (n : ℕ) : (n : ∀ a, π a) = fun _ ↦ ↑n :=
+theorem natCast (n : ℕ) : (n : ∀ a, π a) = fun _ ↦ ↑n :=
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Cast/Basic.lean:321]:
```suggestion
theorem natCast_def (n : ℕ) : (n : ∀ a, π a) = fun _ ↦ ↑n :=
```
matches `one_def` etc

**Review by eric-wieser — COMMENTED** [review]
Half way through...

File: Mathlib/Data/Nat/Cast/Basic.lean [hunk 14]
```diff
@@ -311,16 +311,16 @@ variable {π : α → Type*} [∀ a, NatCast (π a)]
 
 /- Porting note: manually wrote this instance.
 Was `by refine_struct { .. } <;> pi_instance_derive_field` -/
-instance natCast : NatCast (∀ a, π a) := { natCast := fun n _ ↦ n }
+instance instNatCast : NatCast (∀ a, π a) where natCast n _ := n
 
 theorem nat_apply (n : ℕ) (a : α) : (n : ∀ a, π a) a = n :=
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Cast/Basic.lean:316]:
```suggestion
theorem natCast_apply (n : ℕ) (a : α) : (n : ∀ a, π a) a = n :=
```

File: Mathlib/FieldTheory/Adjoin.lean [hunk 15]
```diff
@@ -946,12 +946,12 @@ theorem adjoin_one : F⟮(1 : E)⟯ = ⊥ :=
 
 @[simp]
 theorem adjoin_int (n : ℤ) : F⟮(n : E)⟯ = ⊥ := by
```
Comment (eric-wieser) [inline Mathlib/FieldTheory/Adjoin.lean:948]:
```suggestion
theorem adjoin_intCast (n : ℤ) : F⟮(n : E)⟯ = ⊥ := by
```
and below

File: Mathlib/FieldTheory/Subfield.lean [hunk 16]
```diff
@@ -86,59 +86,43 @@ instance (priority := 100) toSubgroupClass : SubgroupClass S K :=
...
 -- Prefer subclasses of `Field` over subclasses of `SubfieldClass`.
 /-- A subfield of a field inherits a field structure -/
 instance (priority := 75) toField {K} [Field K] [SetLike S K] [SubfieldClass S K] (s : S) :
-    Field s :=
-  Subtype.coe_injective.field ((↑) : s → K)
-    (by rfl) (by rfl) (by intros _ _; rfl) (by intros _ _; rfl) (by intros _; rfl)
-    (by intros _ _; rfl) (by intros _; rfl) (by intros _ _; rfl) (by intros _ _; rfl)
-    (by intros _ _; rfl) (by intros _ _; rfl) (by intros _ _; rfl) (by intros _ _; rfl)
-    (by intros _; rfl) (by intros _; rfl) (by intros _; rfl)
+    Field s := by apply Subtype.coe_injective.field ((↑) : s → K) <;> intros <;> rfl
```
Comment (eric-wieser) [inline Mathlib/FieldTheory/Subfield.lean:125]: This change feels out of scope for this PR (and eleswhere)

File: Mathlib/Order/Filter/FilterProduct.lean (hunk 3 above)
Comment (eric-wieser) [reply Mathlib/Order/Filter/FilterProduct.lean:40]: I don't think this change is in scope for a PR that renames this much stuff...

Comment (eric-wieser) [reply Mathlib/Order/Filter/FilterProduct.lean:40]: @YaelDilles: @mattrobball means that either he wants this changed in the way he states, or you should just revert all the changes here because they don't belong in this PR in the first place.

File: Mathlib/Data/Int/Cast/Basic.lean (hunk 11 above)
Comment (YaelDillies) [reply Mathlib/Data/Int/Cast/Basic.lean:67]: Ah shoot, I was going through the changed `#align`s and reverting the changes, but I misreverted this one

File: Mathlib/Algebra/Group/Defs.lean [hunk 17]
```diff
@@ -969,6 +969,7 @@ theorem zpow_natCast (a : G) : ∀ n : ℕ, a ^ (n : ℤ) = a ^ n
 #align zpow_of_nat zpow_natCast
 #align coe_nat_zsmul natCast_zsmul
 #align of_nat_zsmul natCast_zsmul
+#align matrix.zpow_nat_cast zpow_natCast
```
Comment (eric-wieser) [inline Mathlib/Algebra/Group/Defs.lean:972]: This is surely nonsense?

File: Mathlib/Analysis/NormedSpace/lpSpace.lean [hunk 18]
```diff
@@ -885,13 +885,13 @@ theorem _root_.Memℓp.infty_pow {f : ∀ i, B i} (hf : Memℓp f ∞) (n : ℕ)
   (lpInftySubring B).pow_mem hf n
 #align mem_ℓp.infty_pow Memℓp.infty_pow
 
-theorem _root_.nat_cast_memℓp_infty (n : ℕ) : Memℓp (n : ∀ i, B i) ∞ :=
+theorem _root_.natCast_memℓp_infty (n : ℕ) : Memℓp (n : ∀ i, B i) ∞ :=
```
Comment (eric-wieser) [inline Mathlib/Analysis/NormedSpace/lpSpace.lean:888]: This rename seems out of scope for this PR; the `nat_cast` vs `natCast` change (pending poll result) was the other one, right? Same for the `int_cast` below.

File: Mathlib/Data/ENNReal/Basic.lean [hunk 19]
```diff
@@ -667,12 +667,12 @@ theorem le_of_forall_pos_le_add (h : ∀ ε : ℝ≥0, 0 < ε → b < ∞ → a
   exact ⟨r, hr0, h.trans_le le_top, hr⟩
 #align ennreal.le_of_forall_pos_le_add ENNReal.le_of_forall_pos_le_add
 
-theorem coe_nat_lt_coe {n : ℕ} : (n : ℝ≥0∞) < r ↔ ↑n < r :=
-  ENNReal.coe_nat n ▸ coe_lt_coe
-#align ennreal.coe_nat_lt_coe ENNReal.coe_nat_lt_coe
+theorem natCast_lt_coe {n : ℕ} : (n : ℝ≥0∞) < r ↔ ↑n < r :=
```
Comment (eric-wieser) [inline Mathlib/Data/ENNReal/Basic.lean:670]: What am I missing about this statement that makes it not a tautology? The current name is probably wrong, assuming there's an extra coercion here.

File: Mathlib/Data/ENNReal/Basic.lean [hunk 20]
```diff
@@ -667,12 +667,12 @@ theorem le_of_forall_pos_le_add (h : ∀ ε : ℝ≥0, 0 < ε → b < ∞ → a
...
+  ENNReal.coe_natCast n ▸ coe_lt_coe
+#align ennreal.coe_nat_lt_coe ENNReal.natCast_lt_coe
 
 theorem coe_lt_coe_nat {n : ℕ} : (r : ℝ≥0∞) < n ↔ r < n :=
```
Comment (eric-wieser) [inline Mathlib/Data/ENNReal/Basic.lean:674]:
```suggestion
theorem coe_lt_natCast {n : ℕ} : (r : ℝ≥0∞) < n ↔ r < n :=
```

File: Mathlib/Data/Int/Cast/Lemmas.lean [hunk 21]
```diff
@@ -521,9 +521,9 @@ theorem int_apply (n : ℤ) (i : ι) : (n : ∀ i, π i) i = n :=
 #align pi.int_apply Pi.int_apply
```
Comment (eric-wieser) [inline Mathlib/Data/Int/Cast/Lemmas.lean:521]:
```suggestion
#align pi.int_apply Pi.intCast_apply
```

File: Mathlib/Algebra/Group/Defs.lean (hunk 17 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Group/Defs.lean:972]: `Matrix.zpow_nat_cast` was just a special case of `zpow_natCast`, so I removed it. Somehow renaming it made the lemma be ambiguous in a bunch of places.

File: Mathlib/Data/ENNReal/Basic.lean (hunk 19 above)
Comment (YaelDillies) [reply Mathlib/Data/ENNReal/Basic.lean:670]: No, the name is actually correct. The statement is `Nat.cast n < ENNReal.ofNNReal r ↔ Nat.cast n < r`

Comment (YaelDillies) [reply Mathlib/Data/ENNReal/Basic.lean]: I've rewritten it to `n < (r : ℝ≥0∞) ↔ n < r`. Hopefully that's clearer.

File: Mathlib/Algebra/Group/Defs.lean (hunk 17 above)
Comment (eric-wieser) [reply Mathlib/Algebra/Group/Defs.lean:972]: Oh, then my objection is that this align should be in the file that it was deleted from

File: Mathlib/NumberTheory/Zsqrtd/Basic.lean [hunk 22]
```diff
@@ -273,18 +273,18 @@ instance nontrivial : Nontrivial (ℤ√d) :=
   ⟨⟨0, 1, (Zsqrtd.ext_iff 0 1).not.mpr (by simp)⟩⟩
 
 @[simp]
-theorem coe_nat_re (n : ℕ) : (n : ℤ√d).re = n :=
+theorem re_natCast (n : ℕ) : (n : ℤ√d).re = n :=
```
Comment (eric-wieser) [inline Mathlib/NumberTheory/Zsqrtd/Basic.lean:276]: This lemma name is inconsistent with the `ofNat` one below. Can you either revert this order change, or spin off a PR that fixes all the names in this file?

File: Mathlib/Data/Rat/Cast/Defs.lean [hunk 23]
```diff
@@ -48,6 +48,10 @@ theorem cast_natCast (n : ℕ) : ((n : ℚ) : α) = n := by
   rw [← Int.cast_ofNat, cast_intCast, Int.cast_ofNat]
 #align rat.cast_coe_nat Rat.cast_natCast
 
+-- 2024-03-21
+@[deprecated] alias cast_coe_int := cast_intCast
+@[deprecated] alias cast_coe_nat := cast_natCast
+
```
Comment (eric-wieser) [inline Mathlib/Data/Rat/Cast/Defs.lean:54]: Please split these out to another PR; the longer these are not in master, the less point there is in deprecating them. (For other reviewers: the rename already happened in another PR)

Comment (YaelDillies) [reply Mathlib/Data/Rat/Cast/Defs.lean:54]: #11636

**Review by fpvandoorn — APPROVED** [review]
LGTM.

I know it's a pain, but please add deprecations.

**Comment by eric-wieser** [comment]
Please list the renames in the PR description too.

**Comment by YaelDillies** [comment]
For the record it took me 30min

**Comment by YaelDillies** [comment]
> Please list the renames in the PR description too.

Sorry I ran out of "do it by hand energy" 😞

**Comment by fpvandoorn** [comment]
Thanks!
I'm happy to merge it now.
@eric-wieser do you think the full rename list is important if we have deprecated the old names?

**Comment by fpvandoorn** [comment]
bors merge
bors d+
I think the deprecations make it fine to not list the renames.
